US06951935B2
Synthesis of 5-(N-Phenylamino)-10,20-diphenylporphyrin (Table 1, Product 3b)
The general procedure was used to couple 5-bromo-10,20-diphenylporphyrin (27 mg, 0.05 mmol) with aniline (17 μL, 0,18 mmol), using palladium acetate (0.55 mg, 0.0025 mmol) as the palledium precursor, DPEphos (2.0 mg, 0.0038 mmol) as the phosphine ligand and cesium carbonate (22.8 mg, 0.070 mmol) as the base. The reaction was conducted in THF (5 mL) at 68° C. for 19 h. The title compound was isolated by flash chromatography (silica gel, ethyl acetate:hexanes (v)=1:4) as red solids (27 mg, 98%). 1H NMR (300 MHz, THF-d8): δ 10.14 (s, 1H), 9.44 (d, J=4.8 Hz, 2H), 9.42 (s, 1H), 9.30 (d, J=4.8 Hz, 2H), 8.90 (d, J=4.8 Hz, 2H), 8.77 (d, J=4.8 Hz, 2H), 8.21 (m, 4H), 7.78 (m, 6H), 7.06 (t, J=7.4, 2H), 6.86 (d, J=7.4 Hz, 2H), 6.69 (J=7.4 Hz, 1H), −2.54 (s, 2H). 13C NMR (75 MHz, THF-d8): δ 154.8, 147.7, 142.7, 135.5, 132.1, 131.9, 131.1, 129.7, 128.5, 127.7, 120.6, 120.1, 119.0, 115.5, 105.1. IR (film, cm−1): 3302, 3043, 1599, 1495, 1476, 1338, 1309, 1255, 1064, 973, 958, 797, 748. UV-vis(THF, λmax, nm): 412, 512, 582, 660. HRMS-EI ([M]+): calcd for C38H27N5, 553.2266; found: 553.2274 with an isotope distribution pattern that is same as the calculated one.

reactant | 5-bromo-10,20-diphenylporphyrin | 0.05 mmol, 27 mg | BrC=1C2=CC=C(N2)C(=C2C=CC(C=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)=N2)C2=CC=CC=C2 | C32H21BrN4
reactant | aniline | 0,18 mmol, 17 μL | NC1=CC=CC=C1 | C6H7N
reactant | DPEphos | 0.0038 mmol, 2.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | phosphine | P | H3P
reactant | cesium carbonate | 0.070 mmol, 22.8 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | palladium acetate | 0.0025 mmol, 0.55 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(N-Phenylamino)-10,20-diphenylporphyrin | C1(=CC=CC=C1)NC=1C2=CC=C(N2)C(=C2C=CC(C=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)=N2)C2=CC=CC=C2 | C38H27N5
